US08791272B2
{1-[1-(4-Bromo-phenyl)-ethyl]-3,5-diethyl-1H-pyrazol-4-yl}-acetic acid ethyl ester
To a solution of 4-oxo-3-propionyl-hexanoic acid ethyl ester (500 mg) (preparation analagous to that of 1,1-dimethylethyl 4-oxo-3-propanoylhexanoate in WO2007/141267) in methanol (20 ml) at room temperature was added [1-(4-bromo-phenyl)-ethyl]-hydrazine (0.75 g). After overnight stirring, water was added and the mixture extracted 3 times with ethyl acetate. The organic layer was separated; washed with water and brine solution, then dried and concentrated to afford 792 mg of the title compound. Retention time HPLC: 1.58 min (Method D), ESI mass spectrum: (Br) [M]+=393/395.

reactant | 4-oxo-3-propionyl-hexanoic acid ethyl ester | 500 mg | C(C)OC(CC(C(CC)=O)C(CC)=O)=O | C11H18O4
reactant | 1,1-dimethylethyl 4-oxo-3-propanoylhexanoate | O=C(C(CC(=O)OC(C)(C)C)C(CC)=O)CC | C13H22O4
reactant | [1-(4-bromo-phenyl)-ethyl]-hydrazine | 0.75 g | BrC1=CC=C(C=C1)C(C)NN | C8H11BrN2
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | {1-[1-(4-Bromo-phenyl)-ethyl]-3,5-diethyl-1H-pyrazol-4-yl}-acetic acid ethyl ester | 792 mg | C(C)OC(CC=1C(=NN(C1CC)C(C)C1=CC=C(C=C1)Br)CC)=O | C19H25BrN2O2
